US08912169B2
Step 3: Synthesis of ethyl 2-[4-[2-(methanesulfonamido)ethylamino]cyclohexyl]acetate
To a mixture of ethyl 2-(4-oxocyclohexyl)acetate (736 mg, 4 mmol) and N-(2-aminoethyl)methanesulfonamide; 2,2,2-trifluoroacetic acid salt (1.26 g, 5 mmol) in dichloromethane (6 mL) was added triethylamine (690 μL, 5 mmol) followed by Titanium (IV) ethoxide (420 μL, 2 mmol, technical grade). The resulting cloudy mixture was stirred for 4 hours then concentrated under reduced pressure. The residue was taken up in methanol (6 mL). This mixture was cooled to −78° C. To the resulting mixture was added sodium borohydride (187 mg, 4.8 mmol). On complete addition, the cold bath was allowed to expire and stirring continued for 15.5 hours. The resulting mixture was concentrated under reduced pressure to give a thick paste. This residue was taken up in dichloromethane (40 mL). To this mixture was added Na2CO3 (5.5 mL, saturated aqueous solution). The resulting mixture was stirred for 5 minutes. To this mixture was added celite (1.8 g). This mixture was stirred for 5 minutes then filtered through a pad of celite. The filtrate is washed with saturated aqueous Na2CO3, dried over magnesium sulfate and concentrated to give the title compound as a 6:1 mixture of trans:cis isomers. This material was used without further purification.

reactant | ethyl 2-(4-oxocyclohexyl)acetate | 4 mmol, 736 mg | O=C1CCC(CC1)CC(=O)OCC | C10H16O3
reactant | N-(2-aminoethyl)methanesulfonamide | NCCNS(=O)(=O)C | C3H10N2O2S
reactant | 2,2,2-trifluoroacetic acid | 5 mmol, 1.26 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 5 mmol, 690 μL | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 4.8 mmol, 187 mg | [BH4-].[Na+]
reactant | Na2CO3 | 5.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | Titanium (IV) ethoxide | 2 mmol, 420 μL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | ethyl 2-[4-[2-(methanesulfonamido)ethylamino]cyclohexyl]acetate | CS(=O)(=O)NCCNC1CCC(CC1)CC(=O)OCC | C13H26N2O4S
